US07795236B2
2′,3′,5′-Tris-O-(tert-butyldimethylsilyl)-8-{2-[3′-(3-chloropropoxy)biphenyl-4-yl]ethylamino}adenosine
A mixture of 8-[2-(3′-benzyloxybiphenyl-4-yl)ethyl-amino]-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine (0.27 g) and 10% palladium-on carbon (56.2 wt % H2O, 0.12 g) in methanol (5 mL) was stirred at room temperature for 3 hours under a hydrogen atmosphere. The insoluble material was filtered out and the filtrate was concentrated under reduced pressure. To a solution of the residue obtained in N,N-dimethylformamide (3 mL) was added potassium carbonate (0.12 g). Then 1-bromo-3-chloropropane (0.07 mL) was added, and the resulting mixture was stirred at 40° C. for 42 hours. The reaction mixture was partitioned between ethyl acetate (45 mL) and water (10 mL). The organic layer was washed successively with water (10 mL×2) and brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (0.19 g).

reactant | 8-[2-(3′-benzyloxybiphenyl-4-yl)ethyl-amino]-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine | 0.27 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CCNC=1N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C=2N=CN=C(C2N1)N | C49H74N6O5Si3
reactant | potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 0.07 mL | BrCCCCl | C3H6BrCl
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-on carbon | 0.12 g | [Pd] | Pd
product | 2′,3′,5′-Tris-O-(tert-butyldimethylsilyl)-8-{2-[3′-(3-chloropropoxy)biphenyl-4-yl]ethylamino}adenosine | 0.19 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=NC=2C(N)=NC=NC12)NCCC1=CC=C(C=C1)C1=CC(=CC=C1)OCCCCl | C45H73ClN6O5Si3
